.title kicad schematic

v1 in gnd sine(1V 100mV 1K 0 0)
* u1 in plot_v1
* u2 out plot_v1
r1 in out 1000
c1 out gnd 1u
.tran 1e-06 10000e-06 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
